US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-(3-{[2-(methyloxy)phenyl]oxy}propyl)-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0467 g, 0.159 mmol) and 1-[(3-bromopropyl)oxy]-2-(methyloxy)benzene (0.0541 g, 0.221 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0625 g, 73.5%). EI-MS m/z 458(M+) Rt (1.96 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.159 mmol, 0.0467 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 1-[(3-bromopropyl)oxy]-2-(methyloxy)benzene | 0.221 mmol, 0.0541 g | BrCCCOC1=C(C=CC=C1)OC | C10H13BrO2
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-(3-{[2-(methyloxy)phenyl]oxy}propyl)-1-azoniabicyclo[2.2.2]octane bromide | 0.0625 g, 73.5% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCOC2=C(C=CC=C2)OC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C30H36NO3.BrH/c1-33-27-15-8-9-16-28(27)34-24-10-20-31-21-17-29(18-22-31,19-23-31)30(32,25-11-4-2-5-12-25)26-13-6-3-7-14-26;/h2-9,11-16,32H,10,17-24H2,1H3;1H/q+1;/p-1
